US08067445B2
Step 6: {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4-fluoro-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid benzyl ester and (5-bromo-2-fluoro-phenyl)-acetic acid methyl ester.

reactant | ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C)CC)=O | C24H29BF3NO4
reactant | (5-bromo-2-fluoro-phenyl)-acetic acid methyl ester | COC(CC1=C(C=CC(=C1)Br)F)=O | C9H8BrFO2
product | {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4-fluoro-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C=CC1F)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C27H25F4NO4
